US06121285
5-Amino-7-[4-(R)-(1-aminocyclopropyl)-3-(R)-methoxy-1-pyrrolidinyl]-6-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid
1-Benzyloxycarbonyl-4-(R)-(1-tert-butoxycarbonylaminocyclopropyl)-3-(R)-methoxypyrrolidine (550 mg, 1.41 mmol) was dissolved in ethanol (40 ml), and the solution was mixed with a 5% palladium-carbon catalyst (water content, 55.6%; 550 mg) and stirred for 4 hours under a pressured hydrogen atmosphere (4.5 kg/cm2). The catalyst was removed by celite filtration (methanol washing), and the filtrate was concentrated under reduced pressure. The thus obtained residue was dissolved in dimethyl sulfoxide (5 ml), and the solution was mixed with 5-amino-6,7-difluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid (249.8 mg, 0.80 mmol) and triethylamine (3 ml) and stirred for 2 days in an oil bath of 120° C. under a nitrogen atmosphere. After cooling, dimethyl sulfoxide was evaporated under reduced pressure, the thus obtained residue was dissolved in chloroform (100 ml) and washed with a 10% citric acid aqueous solution (50 ml×2) and saturated brine (100 ml) in that order and then the organic layer was dried over anhydrous magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure. To the thus obtained residue, which was cooled in an ice bath, was added dropwise concentrated hydrochloric acid (10 ml), followed by 1 hour of stirring at room temperature. After adding water (20 ml) to the reaction solution, the aqueous solution was washed with dichloromethane (50 ml×3), adjusted to pH 11 with sodium hydroxide aqueous solution and then washed with dichloromethane (50 ml×2). This was adjusted to pH 7.4 with concentrated hydrochloric acid and extracted with chloroform (150 ml×3). The organic layers were combined, dried over anhydrous sodium sulfate and then filtered, and the filtrate was concentrated under reduced pressure. The thus obtained residue was subjected to preparative silica gel thin layer chromatography (development with the bottom layer of a mixture of chloroform:methanol:water=7:3:1), and the resulting crude product was purified by recrystallizing from ethanol-diisopropyl ether and then dried under a reduced pressure to obtain 57 mg (16%) of the title compound as a yellow powder.

reactant | 1-Benzyloxycarbonyl-4-(R)-(1-tert-butoxycarbonylaminocyclopropyl)-3-(R)-methoxypyrrolidine | 1.41 mmol, 550 mg | C(C1=CC=CC=C1)OC(=O)N1C[C@@H]([C@H](C1)C1(CC1)NC(=O)OC(C)(C)C)OC | C21H30N2O5
reactant | 5-amino-6,7-difluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid | 0.80 mmol, 249.8 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)F)C)[C@H]1[C@H](C1)F)C(=O)O)=O | C14H11F3N2O3
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 550 mg | [C].[Pd]
product | 5-Amino-7-[4-(R)-(1-aminocyclopropyl)-3-(R)-methoxy-1-pyrrolidinyl]-6-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid | 57 mg, 16% | NC1=C2C(C(=CN(C2=C(C(=C1F)N1C[C@@H]([C@H](C1)C1(CC1)N)OC)C)[C@H]1[C@H](C1)F)C(=O)O)=O | C22H26F2N4O4
